US07105533B2
A solution of 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone (200 mg, 0.65 mmol) and 2-amino-2-thiazoline (67 mg, 0.65 mmol) in ethanol (5 mL) was heated to reflux for 2 h, then concentrated. The residue was dissolved in ethyl acetate (25 mL) and washed with a solution of saturated aqueous sodium bicarbonate (10 mL) and brine (10 mL), then dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (2:1) to afford 6-(3-methoxy-4-pyridin-2-ylphenyl)-2,3-dihydroimidazo[2,1-b][1,3]thiazole. 1H NMR (CD3OD, 300 MHz) δ 8.86 (d, 1H), 8.67 (t, 1H), 8.35 (d, 1H), 8.17 (s, 1H), 8.04 (m, 1H), 7.84 (m, 1H), 7.62 (s, 1H), 7.54 (m, 1H), 4.60 (m, 2H), 4.26 (m, 2H), 4.07 (s, 3H) ppm. MS (ESI) 310 (M)+.

reactant | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | 0.65 mmol, 200 mg | BrCC(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC | C14H12BrNO2
reactant | 2-amino-2-thiazoline | 0.65 mmol, 67 mg | NC=1SCCN1 | C3H6N2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-(3-methoxy-4-pyridin-2-ylphenyl)-2,3-dihydroimidazo[2,1-b][1,3]thiazole | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2SCCN2C1 | C17H15N3OS
